US05858995
A mixture of 7-(2,6-dichlorobenzoylamino)-3-hydroxymethyl-2-methylbenzo[b]furan (123 mg), acetic anhydride (43 mg) and pyridine (48 mg) in dichloromethane (5 ml) was refluxed for 2 hours. The reaction mixture was washed with 1N-hydrochloric acid, brine and aqueous saturated sodium bicarbonate, dried over sodium sulfate and evaporated in vacuo. The residue was crystallized from diethyl ether to give 3-acetoxymethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan (115 mg).

reactant | 7-(2,6-dichlorobenzoylamino)-3-hydroxymethyl-2-methylbenzo[b]furan | 123 mg | ClC1=C(C(=O)NC2=CC=CC3=C2OC(=C3CO)C)C(=CC=C1)Cl | C17H13Cl2NO3
reactant | acetic anhydride | 43 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 48 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-acetoxymethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan | 115 mg | C(C)(=O)OCC=1C2=C(OC1C)C(=CC=C2)NC(C2=C(C=CC=C2Cl)Cl)=O | C19H15Cl2NO4
